US04595687
Methyl 2-amino-3-[(4-hydroxyphenyl)thio]propanoatehydrochloride
20 g (100 mmol; 120 ml) methyl 2-(butoxycarbonylamino)-propenoate in chloroform was dissolved in 180 ml of methanol. 13.88 g (110 mmol) 4-mercaptophenol was added and the mixture was then stirred at room temperature under nitrogen for 24 hours. Solvents were removed in vacuo until foaming occurred, then the mixture was taken up in 700 ml dry ether. HCl gas was bubbled through the solution, quickly forming a white precipitate. Bubbling was continued for 1 hour with cooling, then the solution was cooled to 5° C. and filtered to yield the title compound in 80.8% yield.

reactant | methyl 2-(butoxycarbonylamino)-propenoate | 100 mmol, 120 ml, 20 g | C(CCC)OC(=O)NC(C(=O)OC)=C | C9H15NO4
reactant | 4-mercaptophenol | 110 mmol, 13.88 g | SC1=CC=C(C=C1)O | C6H6OS
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 180 ml | CO | CH4O
product | Methyl 2-amino-3-[(4-hydroxyphenyl)thio]propanoatehydrochloride | 80.8% yield | Cl.NC(C(=O)OC)CSC1=CC=C(C=C1)O | InChI=1S/C10H13NO3S.ClH/c1-14-10(13)9(11)6-15-8-4-2-7(12)3-5-8;/h2-5,9,12H,6,11H2,1H3;1H
